US05220011
A solution of bromine (8 g; 50 mM) in 20 mL of glacial acetic acid was added dropwise to a vigorously stirred solution of 2-(3'-bromophenyl)-thiophene (12 g; 50 mM) in 80 mL of glacial acetic acid. The resulting mixture was heated to reflux 5 hrs, cooled and poured onto ice. A solid separated which was filtered and washed with ice water, and purified on silica gel using hexane as solvent to give 68% of 2-bromo-5-[3'-bromophenyl]thiophene as an amorphous solid.

reactant | bromine | 50 mM, 8 g | BrBr | Br2
reactant | 2-(3'-bromophenyl)-thiophene | 50 mM, 12 g | BrC=1C=C(C=CC1)C=1SC=CC1 | C10H7BrS
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-5-[3'-bromophenyl]thiophene | 68% | BrC=1SC(=CC1)C1=CC(=CC=C1)Br | C10H6Br2S
